US07160335B2
B. 1,5-Bis(2-hydroxyethylamino)-3,7-bis(phenylmercapto)-anthraquinone
24 g of 1,5-bis(2-hydroxyethylamino)-3,7-dibromoanthraquinone are introduced at RT into 100 ml of dimethylformamide (DMF). After the addition of 16.3 g of sodium thiophenolate, the mixture is heated to 120° C. and maintained at that temperature for one hour. After cooling the mixture to RT, 100 ml of methanol are added thereto. The precipitate is filtered off, washed with a methanol/water mixture (1:1) and dried in vacuo.

reactant | 1,5-bis(2-hydroxyethylamino)-3,7-dibromoanthraquinone | 24 g | OCCNC1=CC(=CC=2C(C3=C(C=C(C=C3C(C12)=O)Br)NCCO)=O)Br | C18H16Br2N2O4
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | sodium thiophenolate | 16.3 g | C1(=CC=CC=C1)[S-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 1,5-Bis(2-hydroxyethylamino)-3,7-bis(phenylmercapto)-anthraquinone | OCCNC1=CC(=CC=2C(C3=C(C=C(C=C3C(C12)=O)SC1=CC=CC=C1)NCCO)=O)SC1=CC=CC=C1 | C30H26N2O4S2
